US08957068B2
Step 1: Preparation of tert-butyl 1-(methoxy(methyl)amino)-2-methyl-1-oxopropan-2-ylcarbamate
2-(tert-butoxycarbonylamino)-2-methylpropanoic acid (6.62 g, 32.6 mmol), O,N-dimethylhydroxylamine hydrochloride (3.50 g, 35.8 mmol), and HATU (14.86 g, 39.1 mmol) were combined in DMF (100 mL). To this solution was added Hunig's Base (17.07 mL, 98 mmol). The reaction was stirred for overnight (17 hours). The reaction was then concentrated under vacuum and the residue was diluted with EtOAc (300 mL) and washed with water (2×80 mL). The organic layer was washed with brine, dried (Na2SO4), and concentrated under reduced pressure. The residue was purified via silica gel flash chromatography (10-50 percent EtOAc-Hexanes) to afford the desired product as a white solid (6.36 g). LCMS m/z 247.2 (M+H)+, Rt 0.61 min.

reactant | 2-(tert-butoxycarbonylamino)-2-methylpropanoic acid | 32.6 mmol, 6.62 g | C(C)(C)(C)OC(=O)NC(C(=O)O)(C)C | C9H17NO4
reactant | O,N-dimethylhydroxylamine hydrochloride | 35.8 mmol, 3.50 g | Cl.CONC
reactant | HATU | 39.1 mmol, 14.86 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Hunig's Base | 98 mmol, 17.07 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | tert-butyl 1-(methoxy(methyl)amino)-2-methyl-1-oxopropan-2-ylcarbamate | 6.36 g | CON(C(C(C)(C)NC(OC(C)(C)C)=O)=O)C | C11H22N2O4
